US07163940B2
A mixture of of 7-chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine in toluene (2 mL) and excess of butylamine (1 mL) in sealed tube was heated at 110° C. for overnight. The mixture was evaporated to dryness and purified by preparative thin layer chromatography to give N-butyl-2-(4-fluorophenyl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridin-7-amine. 1H NMR (CDCl3): δ 8.53 (d, 2H, J=5.1 Hz), 7.54–7.57 (m, 2H), 7.20–7.24 (m, 3H), 7.06 (t, 2H, J=8.6 Hz), 7.02–7.00 (m, 1H), 6.04 (bs, 1H), 5.95 (d, 1H, J=7.7 Hz), 3.39 (q, 2H, J=6.4 Hz), 1.74–1.78 (m, 2H), 1.47–1.56 (m, 2H), 0.99 (t, 3H, J=7.4 Hz); MS m/z 361 (M+1).

reactant | 7-chloro-2-(4-fluorophenyl)-3-(4-pyridinyl)pyrazolo[1,5-α]pyridine | ClC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H11ClFN3
reactant | butylamine | 1 mL | C(CCC)N | C4H11N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-butyl-2-(4-fluorophenyl)-3-pyridin-4-ylpyrazolo[1,5-α]pyridin-7-amine | C(CCC)NC1=CC=CC=2N1N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C22H21FN4
